US06133266
Ethyl 2-[(2S)-2-[[(2RS)-2-[4-benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-hydroxyethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]acetate (256 mg) and 2.2 ml of dimethylamine were dissolved in 2.2 ml of tetrahydrofuran, and the solution was sealed in a tube and subjected to 39 hours of reaction at 60° C. The reaction solution was concentrated under reduced pressure and the resulting residue was purified by silica gel medium pressure liquid column chromatography (eluent: ethyl acetate/ethanol=1/1) to give 230 mg of amorphous 2-[(2S)-2-[[(2RS)-2-[4-benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-hydroxyethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide.

reactant | Ethyl 2-[(2S)-2-[[(2RS)-2-[4-benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-hydroxyethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]acetate | 256 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CN[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)OCC)O)CCOCC1=CC=CC=C1 | C38H43NO6
reactant | dimethylamine | 2.2 ml | CNC | C2H7N
solvent | tetrahydrofuran | 2.2 ml | O1CCCC1 | C4H8O
product | 2-[(2S)-2-[[(2RS)-2-[4-benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-hydroxyethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide | 230 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CN[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)N(C)C)O)CCOCC1=CC=CC=C1 | C38H44N2O5
